US05439928
1-benzyl-5-[1-(4-fluorophenyl)-3-phenyl-1-propenyl]-1H-imidazole
Titanium tetrachloride (0,03 mol) is added dropwise to a stirred suspension of zinc powder (0,06 mol) in tetrahydrofuran (30 ml) at -10° C. under dry nitrogen. The mixture is heated to reflux and refluxing is continued for 1 hour. The solution is cooled to 0° C. and 1-benzyl-5-[1-(4-fluorophenyl)-1-oxomethyl]-1H-imidazole (0,005 mol) in tetrahydrofuran (10 ml) and phenylacetaldehyde (0,006 mol) in tetrahydrofuran (10 ml) are added into the mixture, respectively. The mixture is refluxed with stirring for 1 hour. The dark mixture is poured into water (60 ml), tetrahydrofuran is evaporated and the mixture is extracted with methylene chloride (2×100 ml). The methylene chloride solution is washed with 2N sodium hydroxide and water, dried with sodium sulphate and evaporated to dryness. The residue is purified by flash chromatography.

reactant | 1-benzyl-5-[1-(4-fluorophenyl)-1-oxomethyl]-1H-imidazole | 0,005 mol | C(C1=CC=CC=C1)N1C=NC=C1C(=O)C1=CC=C(C=C1)F | C17H13FN2O
reactant | phenylacetaldehyde | 0,006 mol | C1(=CC=CC=C1)CC=O | C8H8O
reactant | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | Titanium tetrachloride | 0,03 mol | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 0,06 mol | [Zn] | Zn
product | 1-benzyl-5-[1-(4-fluorophenyl)-3-phenyl-1-propenyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(=CCC1=CC=CC=C1)C1=CC=C(C=C1)F | C25H21FN2
